US08217043B2
f) {[7-Fluoro-4-(4-fluoro-benzyl)-1-hydroxy-3-oxo-3,4-dihydro-4,4a-diaza-fluorene-2-carbonyl]-amino}-acetic acid
Prepared according to the glycinolysis condition used in Example 1 step d) from 7-fluoro-4-(4-fluoro-benzyl)-1-hydroxy-3-oxo-3,4-dihydro-4,4a-diaza-fluorene-2-carboxylic acid methyl ester (1.0 eq.) and sodium glycinate (15 eq.). ESI (m/z): 428 (M+H)+.

reactant | 7-fluoro-4-(4-fluoro-benzyl)-1-hydroxy-3-oxo-3,4-dihydro-4,4a-diaza-fluorene-2-carboxylic acid methyl ester | 1.0 eq. | COC(=O)C1=C(C2=CC3=CC(=CC=C3N2N(C1=O)CC1=CC=C(C=C1)F)F)O | C20H14F2N2O4
reactant | sodium glycinate | 15 eq. | NCC(=O)[O-].[Na+]
product | {[7-Fluoro-4-(4-fluoro-benzyl)-1-hydroxy-3-oxo-3,4-dihydro-4,4a-diaza-fluorene-2-carbonyl]-amino}-acetic acid | FC1=CC=C2N3N(C(C(=C(C3=CC2=C1)O)C(=O)NCC(=O)O)=O)CC1=CC=C(C=C1)F | C21H15F2N3O5
